US07935700B2
(1-3) Synthesis of 4-ethoxycarbonyl-2-mercaptothiazole
Ethyl bromopyruvate (90%, 100 g) was completely dissolved in ethanol (1000 mL), ammonium dithiocarbamate (55.9 g) was added, and the mixture was stirred at room temperature for 2.5 hrs and heated under reflux for 1 hr. After completion of the reaction, the solvent was evaporated under reduced pressure, water was added to the obtained residue. The solid was collected by filtration, washed with water and isopropyl ether, and dried to give the title compound (63.3 g) as a yellow powder.

reactant | Ethyl bromopyruvate | 100 g | BrCC(C(=O)OCC)=O | C5H7BrO3
reactant | ammonium dithiocarbamate | 55.9 g | C(N)([S-])=S.[NH4+]
solvent | ethanol | 1000 mL | C(C)O | C2H6O
product | 4-ethoxycarbonyl-2-mercaptothiazole | 63.3 g | C(C)OC(=O)C=1N=C(SC1)S | C6H7NO2S2
